US08710232B2
Ethyl 3-(6-aminopyridin-3-yl)-2-{1-[2-(1-diphenylacetylpiperidin-4-yl)ethyl]-1H-imidazol-4-yl}propionate (71 mg; 0.12 mmol) was dissolved in absolute ethanol (600 μl). 1N NaOH (128 μl; 0.12 mmol) was added thereto. The reaction mixture was stirred at RT for 16 h. It was then neutralized with 1N HCl (128 μl; 0.12 mmol) and concentrated under reduced pressure. It was taken up in methanol and filtered through a C18 column. The methanol was removed and acetonitrile was added and decanted twice, and the residue was then triturated with diethyl ether. The precipitate was filtered off and dried under high vacuum at 40° C. 3-(6-Aminopyridin-3-yl)-2-{1-[2-(1-diphenylacetylpiperidin-4-yl)ethyl]-1H-imidazol-4-yl}propionic acid (50 mg; 0.09 mmol) was obtained as a colorless solid.

reactant | Ethyl 3-(6-aminopyridin-3-yl)-2-{1-[2-(1-diphenylacetylpiperidin-4-yl)ethyl]-1H-imidazol-4-yl}propionate | 0.12 mmol, 71 mg | NC1=CC=C(C=N1)CC(C(=O)OCC)C=1N=CN(C1)CCC1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C34H39N5O3
reactant | NaOH | 0.12 mmol, 1N, 128 μl | [OH-].[Na+]
reactant | HCl | 0.12 mmol, 1N, 128 μl | Cl | ClH
solvent | ethanol | 600 μl | C(C)O | C2H6O
product | 3-(6-Aminopyridin-3-yl)-2-{1-[2-(1-diphenylacetylpiperidin-4-yl)ethyl]-1H-imidazol-4-yl}propionic acid | 0.09 mmol, 50 mg | NC1=CC=C(C=N1)CC(C(=O)O)C=1N=CN(C1)CCC1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H35N5O3
